US09212182B2
A 25-mL pressure vessel was charged with (E)-ethyl 3-(5-(benzylthio)-2-((2-hydroxycyclohexyl)amino)phenyl)acrylate (2.36 g, 5.73 mmol), methanol (10 ml), and a solution of sodium methoxide in methanol (25 wt. %, 2.64 mL, 11.47 mmol). The reaction vessel was sealed with a Teflon cap and the yellow reaction mixture was warmed to 70° C. After 16 h, additional solution of sodium methoxide in methanol (25 wt. %, 1.9 mL, 8.25 mmol) was added and the reaction vessel was sealed and warmed to 100° C. After 20 h, the reaction mixture was allowed to cool to ambient temperature and concentrated under reduced pressure to furnish a yellow residue which was purified by flash column chromatography (50-g Biotage column, eluent: gradient, 20 to 70% EtOAc in heptane) to afford 6-(benzylthio)-1-((1R,2R)-2-hydroxycyclohexyl)quinolin-2(1H)-one (469 mg, 1.283 mmol, 22.38% yield) as a yellow syrup. m/z (ESI) 366.1 (M+H)+.

reactant | (E)-ethyl 3-(5-(benzylthio)-2-((2-hydroxycyclohexyl)amino)phenyl)acrylate | 5.73 mmol, 2.36 g | C(C1=CC=CC=C1)SC=1C=CC(=C(C1)/C=C/C(=O)OCC)NC1C(CCCC1)O | C24H29NO3S
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 8.25 mmol, 1.9 mL | CO | CH4O
solvent | methanol | 11.47 mmol, 2.64 mL | CO | CH4O
product | 6-(benzylthio)-1-((1R,2R)-2-hydroxycyclohexyl)quinolin-2(1H)-one | 1.283 mmol, 469 mg, 22.38% yield | C(C1=CC=CC=C1)SC=1C=C2C=CC(N(C2=CC1)[C@H]1[C@@H](CCCC1)O)=O | C22H23NO2S
